US04632934
To a suspension of 2.4 g of 50% sodium hydride in 100 ml of dry dimethylformamide was added slowly 3.4 g of imidazole at room temperature, and the mixture was heated to 80° C. A solution of 12.1 g of ethyl p-chloroacetylaminobenzoate in 45 ml of dry dimethylformamide was added to the mixture over a period of 30 minutes at 80° C., and then the reaction mixture was heated at 100° C. for 1.5 hours. After removal of the solvent under reduced pressure, the residue was dissolved in chloroform and washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residual solid was recrystallized from ethanol-n-hexane to give 10.5 g of ethyl p-(1-imidazolyl)acetylaminobenzoate as colorless needles. M.P.: 185°-187° C.

reactant | sodium hydride | 2.4 g | [H-].[Na+]
reactant | imidazole | 3.4 g | N1C=NC=C1 | C3H4N2
reactant | ethyl p-chloroacetylaminobenzoate | 12.1 g | ClCC(=O)NC1=CC=C(C(=O)OCC)C=C1 | C11H12ClNO3
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
product | ethyl p-(1-imidazolyl)acetylaminobenzoate | 10.5 g | N1(C=NC=C1)CC(=O)NC1=CC=C(C(=O)OCC)C=C1 | C14H15N3O3
